US07763639B2
1-ETHYL-4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]-1,2,3,6-TETRAHYDROPYRIDINE
Preparation according to preparation 64: 1-ethyl-4-[2-fluoro-3-(methylthio)phenyl]-1,2,3,6-tetrahydropyridine (22.5 g, 89.6 mmol), sulfuric acid (1 M, 180 ml), sodium tungstate (0.296 g, 0.89 mmol), hydrogen peroxide (30%, 22.9 ml, 224 mmol). Flash column chromatography (ethyl acetate/methanol, 1:1) gave the title compound (17.2 g). MS m/z (rel. intensity, 70 eV) 283 (M+, 63), 268 (bp), 146 (51), 110 (87), 56 (59).

reactant | 1-ethyl-4-[2-fluoro-3-(methylthio)phenyl]-1,2,3,6-tetrahydropyridine | 89.6 mmol, 22.5 g | C(C)N1CCC(=CC1)C1=C(C(=CC=C1)SC)F | C14H18FNS
reactant | sulfuric acid | 1 M, 180 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen peroxide | 224 mmol, 22.9 ml | OO | H2O2
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
catalyst | sodium tungstate | 0.89 mmol, 0.296 g | [O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 1-ETHYL-4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]-1,2,3,6-TETRAHYDROPYRIDINE | 17.2 g | C(C)N1CCC(=CC1)C1=C(C(=CC=C1)S(=O)(=O)C)F | C14H18FNO2S
